US07902187B2
6-chloro-2-(5-fluoro-2-nitrophenylamino)-9-(trans-4-hydroxycyclohexyl)-7H-purin-8(9H)-one.
All glassware was dried in vacuum oven at 60° C. for 1 day prior to reaction. Finely ground cesium carbonate and finely ground 2-amino-6-chloro-9-(trans-4-hydroxycyclohexyl)-7H-purin-8(9H)-one were dried at 60° C. under high vacuum for one day prior to experiment. To an oven-dried 2-neck flask under Ar was added 2-amino-6-chloro-9-(trans-4-hydroxycyclohexyl)-7H-purin-8(9H)-one (6.78 g, 23.9 mmol), cesium carbonate (11.71 g, 35.9 mmol, 1.5 equiv.) and anhydrous toluene (100 mL) and the mixture was stirred at room temperature for 15 min. Then, Pd(OAc)2 (2.41 g, 3.59 mmol, 0.15 equiv.), racemic BINAP (5.21 g, 8.36 mmol, 0.35 equiv.) and 1-bromo-5-fluoro-2-nitrobenzene (6.84 g, 31.07 mmol, 1.3 equiv.) were added as solids, under Ar, and the reaction mixture was stirred at room temperature for 15 min, then stirred at 100° C. for 2 days (LC-MS shows ratio of desired product/starting material approx. 8/1). The reaction mixture was cooled to room temperature, and the solvent removed in vacuo. The dark brown residue was dissolved in warm CH3COOH/EtOH (60 mL/60 mL), and then water (700 mL) was added. A dark yellow solid precipitated and was filtered under vacuum. A small portion of the dark yellow solid was purified by flash chromatography (silica gel, gradient elution with ethyl acetate/hexanes 1/1 to 3/1, then up to 20% methanol in 3/1 ethyl acetate/hexanes) to provide the desired compound as an orange solid. 1H NMR (300 MHz, CDCl3+CD3OD) δ, ppm: 10.67 (br s, 1H), 8.80 (dd, 1H), 8.37 (dd, 1H), 6.85-6.80 (m, 1H), 4.39-4.30 (m, 1H), 3.81-3.73 (m, 1H), 2.67-2.44 (m, 2H), 2.18-2.14 (m, 2H), 1.92-1.88 (m, 2H), 1.56-1.41 (m, 2H); MS (EI) m/z 423.3 (MH)+.

reactant | 2-amino-6-chloro-9-(trans-4-hydroxycyclohexyl)-7H-purin-8(9H)-one | 23.9 mmol, 6.78 g | NC1=NC(=C2NC(N(C2=N1)[C@@H]1CC[C@H](CC1)O)=O)Cl | C11H14ClN5O2
reactant | cesium carbonate | 35.9 mmol, 11.71 g, 1.5 equiv. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | BINAP | 8.36 mmol, 5.21 g, 0.35 equiv. | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | 1-bromo-5-fluoro-2-nitrobenzene | 31.07 mmol, 6.84 g, 1.3 equiv. | BrC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3BrFNO2
catalyst | Pd(OAc)2 | 3.59 mmol, 2.41 g, 0.15 equiv. | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 6-chloro-2-(5-fluoro-2-nitrophenylamino)-9-(trans-4-hydroxycyclohexyl)-7H-purin-8(9H)-one | ClC1=C2NC(N(C2=NC(=N1)NC1=C(C=CC(=C1)F)[N+](=O)[O-])[C@@H]1CC[C@H](CC1)O)=O | C17H16ClFN6O4
